US04171366
To a solution of 51.4 g (0.2 mole) of 5-chloro-2-(2-thienylthio)-benzyl alcohol in 400 ml of toluene is added 173.9 g (2.0 mole) of manganese (IV)-oxide, and stirring is maintained at 20°-25° for 25 hours. The precipitate is then filtered off with suction, and the filtrate is concentrated in vacuo to yield 5-chloro-2-(2-thienylthio)-benzaldehyde as yellow oil.

reactant | 5-chloro-2-(2-thienylthio)-benzyl alcohol | 0.2 mole, 51.4 g | ClC=1C=CC(=C(CO)C1)SC=1SC=CC1 | C11H9ClOS2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese (IV)-oxide | 2.0 mole, 173.9 g | [O-2].[Mn+4].[O-2]
product | 5-chloro-2-(2-thienylthio)-benzaldehyde | ClC=1C=CC(=C(C=O)C1)SC=1SC=CC1 | C11H7ClOS2
